Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
Celebrex / Celexa / codeine / Topamax / Vicodin / ranitidine / 
ibuprofen / Ultram
 
Attending: ___.
 
Chief Complaint:
Epigastric pain x3 days
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Per Dr. ___:

___ with hx of htn, chronic LBP on home opioids, recurrent
gallstone pancreatitis s/p ___ at ___ presenting with
epigastric pain x3 days. Pt had first episode of acute
pancreatitis in ___, treated at ___, with
lipase at that time of 61, ALT 118, AST 53, Tbili 1.1. She was
discharged home from the ED. She returned to care with abdominal
pain in ___, with lipase of 5380 at ___. At that time, RUQ
u/s apparently revealed cholethiasis without obstruction of
markedly dilated CBD (per discharge summary). An MRCP did not
reveal choledocholithiasis. Pt underwent ___ on ___ for
presumed gallstone pancreatitis with passed stone.  Since that
time, pt describes 5 episodes of epigastric pain of varying
intensity, similar to prior episodes of pancreatitis. 

With respect to this episode, pt describes residual epigastric
pain from pain that started on ___, "worse than labor 
pains,"
squeezing pain, ___, radiated to back, with associated nausea
and vomiting. Pain started at 1 am, lasting until 2:30 am,
eventually eased, then returned at 5:30 am, similar quality but
less intense, lasting through until 4:30 pm. She had an MD appt
that day (___), by which time had begun to subside. Pain
increased again in intensity after leaving PCP. Blood tests were
done, at which time lipase was found to be markedly elevated,
reportedly 27,415 (at ___. She was advised to
present to the ED. She endorses chills and headaches which she
attributes to minimal PO intake since ___ pm. Food does not
clearly trigger the pain.

Lipase from ___ at ___ was verified by phone by
admitting MD - confirmed at 27,415. Tbili 1.6, ALT 383, AST 691,
alk phos 182.

In the ___ ED:
VS 97.8, 94, 131/76, 100% RA
Labs notable for WBC 13.4, Hb 10.9, Plt 484, Na 135, CR 0.8,
Lactate 1.2, ALT 265, AST 161, alk phos 179, Tbili 0.7, Lipase
123
Liver u/s without biliary ductal dilatation, incidentally noted
small L pleural effusion
BCx and UCx ordered
Per Dr. ___:

"Received Dilaudid 0.5 mg IV x3, Zofran 4 mg IV, IVF

On arrival to the floor, pain is ___, fluctuating in intensity.
She denies chest pain, endorses SOB which she associates with
shallow breathing ___ epigastric pain. Her weight has been
stable, denies drenching night sweats.

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI"
 
Past Medical History:
Anxiety
Htn
Chronic low back pain
Obesity
Thrombocytosis
Recurrent Pancreatitis
 
Social History:
___
Family History:
Mother died from colon cancer. Mother with DM2,
htn. Father with htn, DM2, CVA, prostate cancer.
 
Physical Exam:
VS: 98.3  BP 109/71  HR 63  RR 20  96% on RA 
GEN: obese female, sitting up in chair, appears comfortable, no
acute distress, very pleasant
HEENT: PERRL, anicteric, conjunctiva pink
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: Obese, soft, mild epigastric tenderness (improved), but w/o 
R/G. BS+ x 4
EXTREMITIES: no clubbing, cyanosis. Trace edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: CN ___ grossly intact. No focal motor or sensory 
deficits
PSYCH: normal mood and affect
 
Pertinent Results:
___ 09:01AM   GLUCOSE-70 UREA N-15 CREAT-0.7 SODIUM-141 
POTASSIUM-4.5 CHLORIDE-102 TOTAL CO2-22 ANION GAP-17*
___ 09:01AM   ALT(SGPT)-210* AST(SGOT)-84* ALK PHOS-161* 
TOT BILI-0.9
___ 09:01AM   CALCIUM-9.0 PHOSPHATE-3.7 MAGNESIUM-2.1 
CHOLEST-201*
___ 09:01AM   TRIGLYCER-134 HDL CHOL-41 CHOL/HDL-4.9 
LDL(CALC)-133*
___ 09:01AM   WBC-9.8 RBC-3.35* HGB-9.8* HCT-29.6* MCV-88 
MCH-29.3 MCHC-33.1 RDW-14.4 RDWSD-46.0
___ 09:01AM   ___
___ 09:01AM   PLT COUNT-419*
___ 09:01AM   PLT COUNT-419*
___ 07:44PM   GLUCOSE-68* UREA N-20 CREAT-0.8 SODIUM-135 
POTASSIUM-7.2* CHLORIDE-94* TOTAL CO2-20* ANION GAP-21*
___ 07:44PM   estGFR-Using this
___ 07:44PM   ALT(SGPT)-265* AST(SGOT)-161* ALK PHOS-179* 
TOT BILI-0.7
___ 07:44PM   LIPASE-123*
___ 07:44PM   cTropnT-<0.01
___ 07:44PM   ALBUMIN-4.2 CALCIUM-9.5 PHOSPHATE-4.7* 
MAGNESIUM-2.0
___ 07:44PM   ALBUMIN-4.2 CALCIUM-9.5 PHOSPHATE-4.7* 
MAGNESIUM-2.0
___ 07:44PM URINE  UHOLD-HOLD
___ 07:44PM   WBC-13.4* RBC-3.79* HGB-10.9* HCT-33.2* 
MCV-88 MCH-28.8 MCHC-32.8 RDW-14.3 RDWSD-45.7
___ 07:44PM   NEUTS-63.8 ___ MONOS-6.9 EOS-1.6 
BASOS-0.7 IM ___ AbsNeut-8.53* AbsLymp-3.57 AbsMono-0.93* 
AbsEos-0.22 AbsBaso-0.09*
___ 07:44PM   PLT COUNT-484*
___ 07:44PM   PLT COUNT-484*
___ 07:44PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:44PM URINE  ___ BACTERIA-FEW* YEAST-NONE 
___ssessment/Plan: ___ with hx of htn, chronic LBP on home 
opioids,
recurrent gallstone pancreatitis s/p ___ at ___
presenting with recurrent acute pancreatitis. 

# Recurrent pancreatitis: Significantly improved. LFT's 
continuing to trend down, pain improved. Lipase down to 61 at 
discharge and tolerating full liquids for breakfast and heart 
healthy (low fat).Pt now with at least two documented episodes 
(unclear ___ in ___ was true 
pancreatitis),
with recurrent symptoms despite ___, with unrevealing MRCP and 
CT
abd/pelvis based on reports. As EUS this visit showing no 
obvious
CBD stones,ongoing choledocholithiasis ruled out. No plans per 
GI
to proceed with ERCP this visit in that regard. ___ were checked
___ and were 148,noted to be 134 this visit. She denies EtOH
use. Agree with admitting MD that ___ is listed
as class II with respect to drug-induced pancreatitis, and may 
be
the culprit given no structural anomalies. DDx also includes
autoimmune pancreatitis, which could be checked if has recurrent
episode despite holding offending agents
- Formally discontinue IVF today, was decreased yesterday as 
tolerated clears
- Analgesia with Tylenol, oxycodone - try to avoid IV narcotics
unless active emesis or unable to manage pain with orals - pt in
agreement with this plan

# Hypertension: 
- D/c home hctz given above
- Hold home lisinopril today in setting of acute pancreatitis 
and
SBP in 100's

# GERD:
- Continue home PPI

# Chronic low back pain: On stable home dose of Percocet as per
PAML. 
- Analgesia as above

# Advance Care Planning/Code status: FULL - presumed

# Contact: ___, daughter

___ - Home today

Total discharge time including face to face time with patient, 
discharge summary, planning and preparation > 30 minutes

___, DO, FACP
Attending Physician, ___
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. oxyCODONE-acetaminophen ___ mg oral QID:PRN pain 
2. Omeprazole 20 mg PO DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. Tizanidine 2 mg PO QHS:PRN back pain 
6. One Daily For Women (multivit-iron-min-folic acid) ___ mg 
oral DAILY 
7. Aspirin 81 mg PO DAILY 
8. FiberCon (calcium polycarbophil) 625 mg oral QAM 
9. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY  
3.  FiberCon (calcium polycarbophil) 625 mg oral QAM  
4.  Lisinopril 20 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  One Daily For Women (multivit-iron-min-folic acid) ___ mg 
oral DAILY  
7.  oxyCODONE-acetaminophen ___ mg oral QID:PRN pain  
8.  Tizanidine 2 mg PO QHS:PRN back pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Der Ms. ___,

You were admitted for pancreatitis which for the time being was 
felt to be due to your Hydrochlorothiazide diuretic. There was 
no evidence of stones in your bile ducts, and as such you did 
not end up needing an ERCP procedure. If this recurs again, as 
we discussed, we can test you for autoimmune causes of 
pancreatitis but I would give an appropriate trail off of the 
potential offending medication and low fat diet
 
Followup Instructions:
___